US03952024
Diethyl ether. To a suspension of 1.32 g. (0.01 mole) of cloromethylthiophene [obtained by the method of F. F. BLICKE, J.A.C.S. 64, 477 (1942)] and 1.2 g. (0.02 mole) of powdered potassium hydroxide in 10 ml. of ether there is added a solution of 3.5 g. (0.03 mole) of thenyl alcohol in 10 ml. of ether. The reaction mixture is stirred for 1 hour at room temperature, then refluxed for 30 minutes and finally allowed to stand over night. After filtration the ethereal solution is concentrated and the residue fractionally distilled. There is obtained 0.22 g. (10%) of dithenyl ether having a b.p. of 99°C./0.01 mm. Hg. and a m.p. of 36.5°. 1c. Furfuryl thenyl ether is obtained by the same method as used for preparing compound (1) b., but using furfuryl alcohol instead of thenyl alcohol. The product thus obtained had a b.p. of 50°C./0.01 mm. Hg.

reactant | potassium hydroxide | 0.02 mole | [OH-].[K+]
reactant | thenyl alcohol | 0.03 mole | C1(=CC=CS1)CO | C5H6OS
reactant | dithenyl ether | C1(=CC=CS1)COCC1=CC=CS1 | C10H10OS2
solvent | ether | CCOCC | C4H10O
product | Furfuryl thenyl ether | C1(=CC=CS1)COCC1=CC=CO1 | C10H10O2S
